US06162813
Step A: 2-acetylamino-4-chloro-5-nitrobenzoic acid methyl ester
To a solution of 3 mL conc. sulfuric acid and 0.40 mL of 90% nitric acid at 0° C. was added 2-acetylamino-4-chlorobenzoic acid methyl ester (1.5 g) in three portions over a period of 20 minutes. This was stirred at 0° C. for 30 minutes then allowed to warm to room temperature for an additional 1 hour. At this time the reaction was poured into 50 mL of an ice/water mixture and extracted with ethyl acetate (3×50 mL). The combined organics were washed sequentially with water (2×50 mL), 10% sodium bicarbonate (2×50 mL) and brine (50 mL) then dried over magnesium sulfate and concentrated in vacuo. Recrystallization of the crude product from methanol gave the title compound (1.02 g).

reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 0.40 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2-acetylamino-4-chlorobenzoic acid methyl ester | 1.5 g | COC(C1=C(C=C(C=C1)Cl)NC(C)=O)=O | C10H10ClNO3
product | 2-acetylamino-4-chloro-5-nitrobenzoic acid methyl ester | 1.02 g | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])Cl)NC(C)=O)=O | C10H9ClN2O5
